US07385061B2
N-{4-[1-(4-Chlorophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl}-acetamide
A solution of 4-[1-(4-chlorophenacyl)-1H-benzimidazol-2-yl]-furazan-3-ylamine (0.05 g, 0.143 mmol), pyridine (0.022 g, 0.282 mmol), acetyl chloride (0.013 g, 0.169 mmol) and a catalytic amount of DMAP in DMF (5 ml) is stirred at 80° C. for 16 hours. The reaction mixture is diluted with ethyl acetate, washed with water and dried over sodium sulphate. Filtration of the sodium sulphate, concentration of the filtrate under reduced pressure and chromatography of the residue on silicagel using hexane-ethyl acetate as eluent gives the title compound as a yellowish solid, m.p. 202-205° C.

reactant | 4-[1-(4-chlorophenacyl)-1H-benzimidazol-2-yl]-furazan-3-ylamine | 0.143 mmol, 0.05 g | ClC1=CC=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)N)=O)C=C1 | C17H12ClN5O2
reactant | pyridine | 0.282 mmol, 0.022 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.169 mmol, 0.013 g | C(C)(=O)Cl | C2H3ClO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-[1-(4-Chlorophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl}-acetamide | ClC1=CC=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)NC(C)=O)=O)C=C1 | C19H14ClN5O3
